US07786104B2
9.1 2-Methyl-6-(pyrrolidin-1-yl)-3-nitropyridine
A suspension of 0.5 g (2.9 mmol) of 6-chloro-3-nitro-2-picoline, of 0.73 ml (8.69 mmol) of pyrrolidine and of 0.8 g (5.79 mmol) of potassium carbonate is heated at 110° C. for 2 hours. The reaction mixture is subsequently concentrated under reduced pressure and then poured into 100 ml of water. A solid is recovered by filtration and is dried so as to obtain 0.55 g of the expected product in the form of a yellow solid which will be used as it is in the rest of the synthesis.

reactant | 6-chloro-3-nitro-2-picoline | 2.9 mmol, 0.5 g | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | pyrrolidine | 8.69 mmol, 0.73 ml | N1CCCC1 | C4H9N
reactant | potassium carbonate | 5.79 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
product | 2-Methyl-6-(pyrrolidin-1-yl)-3-nitropyridine | 0.55 g | CC1=NC(=CC=C1[N+](=O)[O-])N1CCCC1 | C10H13N3O2
